US07763639B2
1-[3-(1-ETHYLPIPERIDIN-4-YL)-2-HYDROXYPHENYL]ETHANONE
Preparation according to Example 5: 1-[3-(1-ethylpiperidin-4-yl)-2-fluorophenyl]ethanone (12 mg, 0.048 mmol), dimethylsulfoxide (1 ml), 2-butyn-1-ol (6.7 mg, 0.096 mmol), potassium-tertbutoxide (11 mg, 0.096 mmol). MS m/z (relative intensity, 70 eV) 247 (M+, 57), 232 (bp), 218 (28), 147 (24) 84 (67).

reactant | 1-[3-(1-ethylpiperidin-4-yl)-2-fluorophenyl]ethanone | 0.048 mmol, 12 mg | C(C)N1CCC(CC1)C=1C(=C(C=CC1)C(C)=O)F | C15H20FNO
reactant | 2-butyn-1-ol | 0.096 mmol, 6.7 mg | C(C#CC)O | C4H6O
reactant | potassium tertbutoxide | 0.096 mmol, 11 mg | [K].CC(C)([O-])C
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 1-[3-(1-ETHYLPIPERIDIN-4-YL)-2-HYDROXYPHENYL]ETHANONE | C(C)N1CCC(CC1)C=1C(=C(C=CC1)C(C)=O)O | C15H21NO2
